US05120743
8-Carboxy-1,2,3,4-tetrahydroquinolin-6-ylacetic acid
To a solution of ethyl 5,6-dihydro-1,2-dioxo-4H-pyrrolo[3,2,1-ij]quinolin-8-ylacetate (21.5 g) and sodium hydroxide (18.5 g) in water (1 litter) was added 35% hydrogen peroxide solution (10 ml) and stirred for 3 hours at room temperature. The mixture was acidified at pH 2 with concentrated hydrochloric acid, resulting precipitate was collected by filtration, washed with water and dried to yield 17.6 g (95.1%) of the title compound. The compound was recrystallized from ethanol to give pale yellow needles, mp 210°-211° C.

reactant | ethyl 5,6-dihydro-1,2-dioxo-4H-pyrrolo[3,2,1-ij]quinolin-8-ylacetate | 21.5 g | O=C1C(N2CCCC3=CC(=CC1=C23)CC(=O)OCC)=O | C15H15NO4
reactant | sodium hydroxide | 18.5 g | [OH-].[Na+]
reactant | hydrogen peroxide | 10 ml | OO | H2O2
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 8-Carboxy-1,2,3,4-tetrahydroquinolin-6-ylacetic acid | 17.6 g, 95.1% | C(=O)(O)C=1C=C(C=C2CCCNC12)CC(=O)O | C12H13NO4
